US07238719B2
Ethyl 5-(3,4-dimethoxybenzoyl)-1H-1,2,3-triazole-4-carboxylate
Sodium azide (4.87 g, 75 mmol), sodium chlorate (2.90 g, 27 mmol), and a 37% aqueous ferric chloride solution (1.49 g, 3 mmol) were added to N,N-dimethylformamide (36 mL), the mixed solution was heated to 40° C., and a mixed solution previously prepared by adding ethyl 4-(3,4-dimethoxyphenyl)-4-oxo-2-butenoate (18 g, 68 mmol) to N,N-dimethylformamide (36 mL) and then dissolving them each other at 50° C. was added dropwise thereto. After the completion of the dropwise addition, a reaction was allowed to proceed at 40° C. for one hr, and a reaction was further allowed to proceed at 65° C. for one hr. After the completion of the reaction, the reaction solution was cooled to 5° C., and acetonitrile (7 mL) and an aqueous solution of sodium nitrite (1.18 g, 17 mmol) in water (25 mL) were successively added dropwise thereto. The mixture was adjusted to pH 1.5 by the addition of a 3 M aqueous sulfuric acid solution. The mixture was stirred at 5° C. for one hr, and ethyl acetate (198 ml) was then added thereto, followed by separation. The organic layer was washed three times with 5% brine, was dried over anhydrous magnesium sulfate, and was filtered. The filtrate was concentrated under the reduced pressure to precipitate crystals. Toluene (90 mL) was added to the residue of the concentration, and the crystals were aged at 5° C. for 12 hr. The crystals were collected by filtration, were then washed with toluene, and were dried under the reduced pressure to give 17.15 g of a light yellow powder (yield 82.5%).

reactant | Sodium azide | 75 mmol, 4.87 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium chlorate | 27 mmol, 2.90 g | Cl(=O)(=O)[O-].[Na+]
reactant | ethyl 4-(3,4-dimethoxyphenyl)-4-oxo-2-butenoate | 68 mmol, 18 g | COC=1C=C(C=CC1OC)C(C=CC(=O)OCC)=O | C14H16O5
reactant | sodium nitrite | 17 mmol, 1.18 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 3 M | S(O)(O)(=O)=O | H2O4S
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 198 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 36 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-(3,4-dimethoxybenzoyl)-1H-1,2,3-triazole-4-carboxylate | 17.15 g, yield 82.5% | COC=1C=C(C(=O)C2=C(N=NN2)C(=O)OCC)C=CC1OC | C14H15N3O5
